US08202895B2
Ethyl N-({2-[(4-chlorophenyl)carbonyl]hydrazinyl}carbonyl)glycinate
A suspension of 12.95 g (75.9 mmol) of 4-chlorobenzhydrazide in 50 ml of dry THF was introduced at 50° C. and admixed dropwise with a solution of 10.0 g (77.5 mmol) of ethyl 2-isocyanatoacetate in 100 ml of dry THF. First of all a solution formed, and then a precipitate was produced. After the end of the addition, the mixture was stirred at 50° C. for 2 h more, then left to stand overnight at RT. The crystals were isolated by filtration, washed with a little diethyl ether and dried in an HV. This gave 21.43 g (89% of theory) of the title compound.

reactant | 4-chlorobenzhydrazide | 75.9 mmol, 12.95 g | ClC1=CC=C(C(=O)NN)C=C1 | C7H7ClN2O
reactant | ethyl 2-isocyanatoacetate | 77.5 mmol, 10.0 g | N(=C=O)CC(=O)OCC | C5H7NO3
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | Ethyl N-({2-[(4-chlorophenyl)carbonyl]hydrazinyl}carbonyl)glycinate | ClC1=CC=C(C=C1)C(=O)NNC(=O)NCC(=O)OCC | C12H14ClN3O4
